US05547952
Example 3 3,4-Dihydro-2-(4-hydroxy-3,5diisopropylbenzylidene)-3-oxo-4(1H-tetrazol-5-ylmethyl)-2H-1,4-benzothiazine (compound No. 3-1)
To a solution of 2-(4-acetoxy-3,5-diisopropylbenzylidene)-4-cyanomethyl-3,4-dihydro-3-oxo-2H-1,4-benzothiazine (compound No. 1-3, 0.47 g) in dimethylformaldehyde (5 ml), sodium azide (0.21 g) and ammonium chloride (0.17 g) were added. The mixture was stirred overnight at 105° C. under a nitrogen atmosphere. To acidify the mixture, 1N hydrochloric acid was added. Saturated sodium chloride solution was added to the mixture and the whole was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo. To the residue, 1N aqueous sodium hydroxide solution was added and the whole was washed with diethyleter. 5.8N hydrochloric acid was added to the aqueous layer to acidify it and the whole was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate and concentrated in vacuo. The oily residue was purified by silica gel column chromatography to give 0.36 g (76.4%) of the titled compound.

reactant | 2-(4-acetoxy-3,5-diisopropylbenzylidene)-4-cyanomethyl-3,4-dihydro-3-oxo-2H-1,4-benzothiazine | C(C)(=O)OC1=C(C=C(C=C2SC3=C(N(C2=O)CC#N)C=CC=C3)C=C1C(C)C)C(C)C | C25H26N2O3S
reactant | sodium azide | 0.21 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.17 g | [Cl-].[NH4+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethylformaldehyde | 5 ml | CC(=O)C | C3H6O
product | 3,4-Dihydro-2-(4-hydroxy-3,5diisopropylbenzylidene)-3-oxo-4(1H-tetrazol-5-ylmethyl)-2H-1,4-benzothiazine | 0.36 g, 76.4% | OC1=C(C=C(C=C2SC3=C(N(C2=O)CC2=NN=NN2)C=CC=C3)C=C1C(C)C)C(C)C | C23H25N5O2S
